US06787535B2
10 g of 1-benzenesulfonylmethyl-3-chloro-2-nitro-benzene were slurried in 25 mL N-methylpiperazine under nitrogen and stirred. The mixture was heated to 80° C. (oil bath temperature) for a period of 14 hours. The reaction was quenched at 80° C. with 125 mL water, and the thick slurry was filtered, washed with 100 mL water and 100 mL hexanes., and vacuum dried at 45° C. under nitrogen purge for 4 hours, to yield 11.7 g of 1-(3-benzenesulfonylmethyl-2-nitro-phenyl)-4-methyl-piperazine mp 180-182° C.

reactant | 1-benzenesulfonylmethyl-3-chloro-2-nitro-benzene | 10 g | C1(=CC=CC=C1)S(=O)(=O)CC1=C(C(=CC=C1)Cl)[N+](=O)[O-] | C13H10ClNO4S
reactant | N-methylpiperazine | 25 mL | CN1CCNCC1 | C5H12N2
product | 1-(3-benzenesulfonylmethyl-2-nitro-phenyl)-4-methyl-piperazine | 11.7 g | C1(=CC=CC=C1)S(=O)(=O)CC=1C(=C(C=CC1)N1CCN(CC1)C)[N+](=O)[O-] | C18H21N3O4S
